US05703106
Crude 3-[4-(5-isoxazolyl)-phenyl]-alanine ethyl ester (660 mg) is dissolved in chloroform (6.6 ml), stirred vigorously with 2N aqueous sodium carbonate (1.4 ml), and after cooling to 10° C., 3,5-dimethylbenzoylchloride (0.7 ml) is added. Stirring is continued for 1 hour at 10° C. and for 2 hours at ambient temperature. Then extraction with dichloromethane/water, washing with 10% aqueous citric acid, and with brine, followed by evaporation gives the crude product. Flash chromatography on silica gel, hexane/ethyl acetate (4:1), gives pure N-(3,5-dimethylbenzoyl)-3-[4-(5-isoxazolyl)-phenyl]-alanine ethyl ester.

reactant | 3-[4-(5-isoxazolyl)-phenyl]-alanine ethyl ester | 660 mg | C(C)OC([C@@H](N)CC1=CC=C(C=C1)C1=CC=NO1)=O | C14H16N2O3
reactant | sodium carbonate | 2N, 1.4 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3,5-dimethylbenzoylchloride | 0.7 ml | CC=1C=C(C(=O)Cl)C=C(C1)C | C9H9ClO
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | chloroform | 6.6 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(3,5-dimethylbenzoyl)-3-[4-(5-isoxazolyl)-phenyl]-alanine ethyl ester | C(C)OC([C@@H](NC(C1=CC(=CC(=C1)C)C)=O)CC1=CC=C(C=C1)C1=CC=NO1)=O | C23H24N2O4
